US04568744
(A) 5-(4-Amino-3,5-dimethoxybenzyl)-2,4-(1H,3H)-pyrimidinedione
A mixture of 10.04 g (49 mmol) of 5-[(dimethylamino)methyl]uracil hydrochloride (B. Roth, J. Z. Strelitz, and B. S. Rauckman, J. Med. Chem. 23, 379 (1980) and 7.48 g (49 mmol) of 2,6-dimethoxyaniline (m.p. 73°-74.5°; prepared from 2,6-dimethoxybenzoic acid by the procedure in Org. Reactions 3, 330 (1946)) in 50 mL of ethylene glycol under nitrogen was heated at 145° for 5 hours. The mixture was cooled and the precipitated solid was collected, suspended in 300 mL of boiling ethanol and collected to give 3.91 g (29%) of the title compound; m.p. 243°-245° (dec.).

reactant | 5-[(dimethylamino)methyl]uracil hydrochloride | 49 mmol, 10.04 g | Cl.CN(C)CC=1C(NC(NC1)=O)=O
reactant | 2,6-dimethoxyaniline | 49 mmol, 7.48 g | COC1=C(N)C(=CC=C1)OC | C8H11NO2
reactant | 2,6-dimethoxybenzoic acid | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
solvent | ethylene glycol | 50 mL | C(CO)O | C2H6O2
product | 5-(4-Amino-3,5-dimethoxybenzyl)-2,4-(1H,3H)-pyrimidinedione | 3.91 g, 29% | NC1=C(C=C(CC=2C(NC(NC2)=O)=O)C=C1OC)OC | C13H15N3O4
